### PR TITLE
[Merged by Bors] - feat(RingTheory/Localization/Pi): localization of a finite direct product is a product of localizations

### PR DESCRIPTION
**Pull request by maddycrim**
For lemma ` isUnit_piRingHom_algebraMap_comp_piEvalRingHom` : Let `M` be a submonoid of a direct product of commutative rings `R i`, and let `M' i` denote the projection of `M` onto each corresponding factor. Given a ring homomorphism from the direct product `Π i, R i` to the product of the localizations of each `R i` at `M' i`, every `y : M` maps to a unit under this homomorphism.

For theorem `bijective_lift_piRingHom_algebraMap_comp_piEvalRingHom` : Let `M` be a submonoid of a direct product of commutative rings `R i`, and let `M' i` denote the projection of `M` onto each factor. Then the canonical map from the localization of the direct product `Π i, R i` at `M` to the direct product of the localizations of each `R i` at `M' i` is bijective.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 1]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+  [∀ i, CommRing (S' i)] [Algebra (∀ i, R' i) S] [∀ i, Algebra (R' i) (S' i)]
+  {M : Submonoid (∀ i, R' i)} [sloc : IsLocalization M S]
+  {M' : ∀ i, Submonoid (R' i)} [isloc : ∀ i, IsLocalization (M' i) (S' i)]
+
+/-- Let `M` be a submonoid of a direct product of commutative rings `R' i`, and let `M' i` denote
+the projection of `M` onto each corresponding factor. Given a ring homomorphism from the direct
+product `∏ R' i` to the product of the localizations of each `R' i` at `M' i`, every `y : M`
+maps to a unit under this homomorphism.
+-/
+lemma isUnit_of_product_of_localizations (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) (y : M) :
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:951]: The name probably needs to be changed, but I'm not sure yet what to.

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 2]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
 end CommRing
+
+section
+
+open IsLocalization
+
+variable (S : Type*) [CommRing S] {ι : Type*} (R' S' : ι → Type*) [∀ i, CommRing (R' i)]
+  [∀ i, CommRing (S' i)] [Algebra (∀ i, R' i) S] [∀ i, Algebra (R' i) (S' i)]
+  {M : Submonoid (∀ i, R' i)} [sloc : IsLocalization M S]
+  {M' : ∀ i, Submonoid (R' i)} [isloc : ∀ i, IsLocalization (M' i) (S' i)]
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:944]: Do we even need to introduce `M'`? Would it be better to just write 
```
[isloc : ∀ i, IsLocalization (M.map (Pi.evalRingHom R' i)) (S' i)]
```

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 3]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+-/
+lemma isUnit_of_product_of_localizations (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) (y : M) :
+    IsUnit ((Pi.ringHom fun i ↦ (algebraMap (R' i) (S' i)).comp (Pi.evalRingHom R' i)) y) := by
+  set f' : ∀i, (∀i, R' i) →+* S' i :=
+    fun i ↦ RingHom.comp (algebraMap (R' i) (S' i)) (Pi.evalRingHom R' i)
+  refine isUnit_iff_exists_inv.mpr ?_
+  use fun i ↦ Ring.inverse ((f' i) y)
+  rw [mul_comm]
+  exact funext (fun i ↦ Ring.inverse_mul_cancel ((f' i) y) ((isloc i).map_units (S' i) ⟨y.1 i,
+    by rw [h i]; exact Submonoid.mem_map_of_mem (Pi.evalRingHom R' i) y.2⟩))
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:959]: This line is pretty complicated. Could we break out the `by ... ` block into a preliminary `have`?

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 4]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+is injective.
+-/
+theorem injective_of_product_of_localizations [inst : Fintype ι] [DecidableEq ι]
+    (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) :
+    Function.Injective (sloc.lift (isUnit_of_product_of_localizations R' S' h)) := by
+  set R := (∀i, R' i)
+  set P := (∀i, S' i)
+  set f := sloc.lift (isUnit_of_product_of_localizations R' S' h ) -- S to P
+  set f' : ∀i, R →+* S' i := fun i ↦ RingHom.comp (algebraMap (R' i) (S' i)) (Pi.evalRingHom R' i)
+  set f'' :  R →+* P := Pi.ringHom f' -- R to P
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:973]:
```suggestion
  set f'' :  R →+* P := Pi.ringHom f' 
```
?

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 5]
```diff
@@ -8,7 +8,9 @@ import Mathlib.GroupTheory.MonoidLocalization.MonoidWithZero
 import Mathlib.RingTheory.OreLocalization.Ring
 import Mathlib.Tactic.ApplyFun
 import Mathlib.Tactic.Ring
+import Mathlib.Algebra.Ring.Pi
 import Mathlib.Algebra.BigOperators.Group.Finset
+import Mathlib.Algebra.Group.Submonoid.BigOperators
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:13]: Could you move these results to a new file, e.g. `Localization/Pi.lean`.

We shouldn't be adding new imports to `.Defs` files in order to add theorems!

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 6]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+the projection of `M` onto each factor. Then the canonical map from the localization of the direct
+product `∏ R' i` at `M` to the direct product of the localizations of each `R' i` at `M' i`
+is injective.
+-/
+theorem injective_of_product_of_localizations [inst : Fintype ι] [DecidableEq ι]
+    (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) :
+    Function.Injective (sloc.lift (isUnit_of_product_of_localizations R' S' h)) := by
+  set R := (∀i, R' i)
+  set P := (∀i, S' i)
+  set f := sloc.lift (isUnit_of_product_of_localizations R' S' h ) -- S to P
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:971]:
```suggestion
  set f : S →+*P := sloc.lift (isUnit_of_product_of_localizations R' S' h )
```

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 7]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+/-- Let `M` be a submonoid of a direct product of commutative rings `R' i`, and let `M' i` denote
+the projection of `M` onto each factor. Then the canonical map from the localization of the direct
+product `∏ R' i` at `M` to the direct product of the localizations of each `R' i` at `M' i`
+is injective.
+-/
+theorem injective_of_product_of_localizations [inst : Fintype ι] [DecidableEq ι]
+    (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) :
+    Function.Injective (sloc.lift (isUnit_of_product_of_localizations R' S' h)) := by
+  set R := (∀i, R' i)
+  set P := (∀i, S' i)
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:970]:
```suggestion
  set R := ∀i, R' i
  set P := ∀i, S' i
```

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 8]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+  {M' : ∀ i, Submonoid (R' i)} [isloc : ∀ i, IsLocalization (M' i) (S' i)]
+
+/-- Let `M` be a submonoid of a direct product of commutative rings `R' i`, and let `M' i` denote
+the projection of `M` onto each corresponding factor. Given a ring homomorphism from the direct
+product `∏ R' i` to the product of the localizations of each `R' i` at `M' i`, every `y : M`
+maps to a unit under this homomorphism.
+-/
+lemma isUnit_of_product_of_localizations (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) (y : M) :
+    IsUnit ((Pi.ringHom fun i ↦ (algebraMap (R' i) (S' i)).comp (Pi.evalRingHom R' i)) y) := by
+  set f' : ∀i, (∀i, R' i) →+* S' i :=
```
Comment (kim-em) [inline Mathlib/RingTheory/Localization/Defs.lean:953]: Here and below, all of your `set`s can just be `let`. (Better to use the more primitive language feature unless there is need for the extra behaviour of `set`.)

File: Mathlib/RingTheory/Localization/Defs.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Localization/Defs.lean:959]:
```suggestion
  exact funext fun i ↦ Ring.inverse_mul_cancel (f' i y) ((isloc i).map_units (S' i) ⟨y.1 i,
    by rw [h i]; exact Submonoid.mem_map_of_mem (Pi.evalRingHom R' i) y.2⟩)
```
or maybe
```suggestion
  exact funext fun i ↦ Ring.inverse_mul_cancel (f' i y) ((isloc i).map_units (S' i) ⟨y.1 i, ?_⟩)
  rw [h i]; exact Submonoid.mem_map_of_mem (Pi.evalRingHom R' i) y.2
```

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 9]
```diff
@@ -931,3 +933,71 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+product `∏ R' i` at `M` to the direct product of the localizations of each `R' i` at `M' i`
+is injective.
+-/
+theorem injective_of_product_of_localizations [inst : Fintype ι] [DecidableEq ι]
+    (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) :
+    Function.Injective (sloc.lift (isUnit_of_product_of_localizations R' S' h)) := by
+  set R := (∀i, R' i)
+  set P := (∀i, S' i)
+  set f := sloc.lift (isUnit_of_product_of_localizations R' S' h ) -- S to P
+  set f' : ∀i, R →+* S' i := fun i ↦ RingHom.comp (algebraMap (R' i) (S' i)) (Pi.evalRingHom R' i)
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Defs.lean:972]:
```suggestion
  set f' i : R →+* S' i := (algebraMap (R' i) (S' i)).comp (Pi.evalRingHom R' i)
```

**Comment by alreadydone** [comment]
I think your lemma and theorem still work if you consider a family of ring homs in place of the projections (`Pi.evalRingHom`) from a product ring; for the theorem you need to assume the product of the ring homs [Pi.ringHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Pi.html#Pi.ringHom) is injective.
Also your results hold for CommSemiring in place of CommRing.

**Comment by alreadydone** [comment]
I fact I think it's true that a product of localizations is the localization of the product ring w.r.t. the product monoid, even for infinite products. I proved something [here](https://github.com/leanprover-community/mathlib4/pull/19714/files#diff-371857a0994c7c7a17b23d06dfc4075d201146f3d0f8810541c290db63b14d57R82-R87) for cylindrical submonoids instead of arbitrary products, which you might use as a reference.
Then you can factor your results into two parts: 1) that an injective ring hom induces an injective ring hom from the localization w.r.t. a submonoid to the localization w.r.t. the image submonoid, and 2) when the codomain of the ring hom is a product, then the localization is a product of localizations.

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 10]
```diff
@@ -931,3 +933,70 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+    apply (M.mem_map).mp
+    rw [← h i]
+    exact (m i).2
+  choose n hn using this
+  use ⟨∏ j : ι, n j, M.prod_mem fun i _ ↦ (hn i).left⟩
+  simp only
+  refine funext fun i ↦ ?_
+  rw [Pi.mul_apply, Finset.prod_eq_mul_prod_diff_singleton (Finset.mem_univ i) n, Pi.mul_apply,
+    mul_comm ((n i) i), mul_assoc, ← Pi.evalRingHom_apply R' i (n i), (hn i).right, hm i, mul_zero]
+  rfl
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Defs.lean:1000]: You can do
```suggestion
  refine funext fun i ↦ ?_
  simp_rw [Pi.mul_apply, Finset.prod_eq_mul_prod_diff_singleton (Finset.mem_univ i) n, Pi.mul_apply,
    mul_comm ((n i) i), mul_assoc, ← Pi.evalRingHom_apply R' i (n i), (hn i).right, hm i, mul_zero,
    Pi.zero_apply]
```
(I think it's fine to keep the `rfl`)

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 11]
```diff
@@ -931,3 +933,70 @@ theorem isDomain_localization {M : Submonoid A} (hM : M ≤ nonZeroDivisors A) :
...
+
+/-- Let `M` be a submonoid of a direct product of commutative rings `R' i`, and let `M' i` denote
+the projection of `M` onto each corresponding factor. Given a ring homomorphism from the direct
+product `∏ R' i` to the product of the localizations of each `R' i` at `M' i`, every `y : M`
+maps to a unit under this homomorphism.
+-/
+lemma isUnit_of_product_of_localizations (h : ∀ i, (M' i) = M.map (Pi.evalRingHom R' i)) (y : M) :
+    IsUnit ((Pi.ringHom fun i ↦ (algebraMap (R' i) (S' i)).comp (Pi.evalRingHom R' i)) y) := by
+  let f' : ∀i, (∀i, R' i) →+* S' i :=
+    fun i ↦ RingHom.comp (algebraMap (R' i) (S' i)) (Pi.evalRingHom R' i)
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/Defs.lean:954]: Doesn't work with `set` but actually works with `let` :)
```suggestion
    let f' i : (∀i, R' i) →+* S' i := (algebraMap (R' i) (S' i)).comp (Pi.evalRingHom R' i)
```

**Comment by alreadydone** [comment]
What I said in the previous two comments are true but not the optimal way to refactor the result; I've now done a refactoring in [this branch](https://github.com/leanprover-community/mathlib4/compare/MC_products...MC_products_refactor?expand=1). I did prove that a product of localizations is a localization w.r.t. the product submonoid, and I upgraded the main result from injectivity to bijectivity, because the saturation of a submonoid in a finite product is exactly the product of all its projections. I also renamed @maddycrim's two original results to better conform to mathlib naming conventions.

@jcommelin assigned this to me but I'm no longer comfortable approving this myself, so maybe @kim-em could take another look.

**Comment by kim-em** [comment]
@maddycrim, if I understand correctly the ball is in your court on this one. I'll mark `awaiting-author`, but please ping @alreadydone or myself on Zulip if that's not the case.

File: Mathlib/Algebra/Group/Invertible/Basic.lean [hunk 12]
```diff
@@ -160,3 +160,18 @@ def invertibleEquivOfLeftInverse {R : Type*} {S : Type*} {F G : Type*} [Monoid R
...
+/-- Construct a unit in a product monoid from a unit in each component. -/
+def units [∀ i, Monoid (f i)] (x : ∀ i, (f i)ˣ) : (∀ i, f i)ˣ :=
+  ⟨fun i ↦ x i, fun i ↦ ↑(x i)⁻¹, by ext; simp, by ext; simp⟩
+
+theorem isUnit_iff [∀ i, Monoid (f i)] {x : ∀ i, f i} : IsUnit x ↔ ∀ i, IsUnit (x i) := by
+  refine ⟨?_, fun h ↦ ⟨units fun i ↦ (h i).unit, rfl⟩⟩
+  rintro ⟨x, rfl⟩
+  exact fun i ↦ ⟨⟨x.1 i, x.inv i, congr_fun x.val_inv i, congr_fun x.inv_val i⟩, rfl⟩
+
+end Pi
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/Invertible/Basic.lean:177]: These were added in #20279. Discarding.

**Comment by kim-em** [comment]
bors merge
